US08497274B2
(iii) Production of N-{3-[(2-amino-7-nitro-1,3-benzothiazol-6-yl)oxy]phenyl}-2,2,2-trifluoroacetamide
Potassium thiocyanate (4.3 g, 44.2 mmol) was suspended in acetic acid (40 mL), and the mixture was stirred at room temperature for 10 min. N-[3-(4-Amino-2-nitrophenoxy)phenyl]-2,2,2-trifluoroacetamide (3.02 g, 8.85 mmol) was added to the obtained solution, and the mixture was further stirred at room temperature for 10 min. A solution of bromine (1.98 g, 12.4 mmol) in acetic acid (10 mL) was slowly added dropwise to the obtained solution, and the mixture was stirred at room temperature for 16 hr. The resulting yellow insoluble material was filtered off and washed with acetic acid. The filtrate and washings were combined and the mixture was concentrated under reduced pressure. The obtained residue was suspended in ethyl acetate (400 mL), and washed with saturated aqueous sodium hydrogen carbonate solution (400 mL). The aqueous layer was extracted with ethyl acetate (200 mL), and the combined organic layer was washed with saturated brine (400 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate/n-hexane=40/60→100/0), and the obtained solution was concentrated under reduced pressure. The residue was crystallized from ethyl acetate/n-hexane to give the title compound (1.29 g, 37%) as a yellow powder.

reactant | Potassium thiocyanate | 44.2 mmol, 4.3 g | [S-]C#N.[K+]
reactant | N-[3-(4-Amino-2-nitrophenoxy)phenyl]-2,2,2-trifluoroacetamide | 8.85 mmol, 3.02 g | NC1=CC(=C(OC=2C=C(C=CC2)NC(C(F)(F)F)=O)C=C1)[N+](=O)[O-] | C14H10F3N3O4
reactant | bromine | 12.4 mmol, 1.98 g | BrBr | Br2
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | N-{3-[(2-amino-7-nitro-1,3-benzothiazol-6-yl)oxy]phenyl}-2,2,2-trifluoroacetamide | 1.29 g, 37% | NC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC=2C=C(C=CC2)NC(C(F)(F)F)=O | C15H9F3N4O4S
